US04371720
3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-3-en-1-one ethylene ketal
A solution of 500 mg. of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-en-1-one, 7.8 g. of ethylene glycol, 375 mg. of hydroquinone and 50 mg. of p-toluenesulfonic acid monohydrate in 50 ml. of benzene is heated at reflux for 12 hours using a Dean-Stark condenser filled with 3A molcular sieves. The reaction is cooled, added to 500 ml. saturated sodium bicarbonate and the quenched mixture extracted with three 150 ml. portions of ether, dried over magnesium sulfate and evaporated to a solid. This solid is purified via column chromatography on 50 g. of silica gel eluted with 50% ether-petroleum ether to yield the title product.

reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-en-1-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1=CC(CCC1)=O | C28H36O2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-3-en-1-one ethylene ketal | C1COC2(CC(=CCC2)C2=C(C=C(C=C2)C(CCCCCC)(C)C)OCC2=CC=CC=C2)O1 | C30H40O3
